US07148227B2
Preparation of 5-cyano-6-(2,6-difluoro-4-cyanophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 0.1 mol of 5-chloro-6-(2,6-difluoro-4-cyanophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo-[1,5-a]-pyrimidine (No. I-5) and 0.25 mol of tetraethylammonium cyanide in 750 ml of dimethylformamide (DMF) was stirred at 20–25° C. for 16 hours. After addition of water and methyl tert-butyl ether (MTBE), the organic phase was separated, washed with water, dried and freed from the solvent. After chromatography on silica gel, 6.33 g of the title compound were obtained from the residue.

reactant | 5-chloro-6-(2,6-difluoro-4-cyanophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]-triazolo-[1,5-a]-pyrimidine | 0.1 mol | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)C#N)F)N1CCC(CC1)C)N=CN2 | C18H15ClF2N6
reactant | water | O | H2O
reactant | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
reactant | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
catalyst | tetraethylammonium cyanide | 0.25 mol | [C-]#N.C(C)[N+](CC)(CC)CC
product | 5-cyano-6-(2,6-difluoro-4-cyanophenyl)-7-(4-methylpiperidin-1-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 6.33 g | C(#N)C1=NC=2N(C(=C1C1=C(C=C(C=C1F)C#N)F)N1CCC(CC1)C)N=CN2 | C19H15F2N7
